US04614807
The above lactam was hydrolyzed with base according to the following procedure: 5 g of 1-oxo-6-methoxy-7,8-dichloro-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole were dissolved in a mixture of 77 ml of ethanol and 51 ml of water. 13.9 g of potassium hydroxide were added, and the solution was heated to refluxing temperature overnight under a nitrogen atmosphere. The reaction mixture was cooled, and the pH adjusted to about 4 by the addition of 12N aqueous hydrochloric acid. A precipitate formed in the acidic solution, which precipitate was isolated by filtration, and the filter cake washed with water. 5.15 g of 3-(2-aminoethyl)-5-methoxy-6,7-dichloroindol-2-carboxylic acid were obtained. The compound melted at 248°-249° C.

reactant | 1-oxo-6-methoxy-7,8-dichloro-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 5 g | O=C1NCCC2=C1NC1=C(C(=C(C=C21)OC)Cl)Cl | C12H10Cl2N2O2
reactant | potassium hydroxide | 13.9 g | [OH-].[K+]
reactant | hydrochloric acid | 12N | Cl | ClH
solvent | ethanol | 77 ml | C(C)O | C2H6O
solvent | water | 51 ml | O | H2O
product | 3-(2-aminoethyl)-5-methoxy-6,7-dichloroindol-2-carboxylic acid | 5.15 g | NCCC1=C(NC2=C(C(=C(C=C12)OC)Cl)Cl)C(=O)O | C12H12Cl2N2O3
